US06602825B1
3-(4-Chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione
3 ml of triethylamine and then a solution of 22.4 g (91.2 mmol) of 4-chloro-2-fluoro-5-(methoxycarbonyloxy)phenyl isocyanate in 100 ml of toluene were added dropwise at approximately 20° C. to a solution of 9.5 g (91.2 mmol) of N,N′-dimethylthiourea in 20 ml of toluene. After addition of 29.6 g (182.5 mmol) of carbodiimidazole, the mixture was heated for 3 hours at 80° C. The reaction mixture was stirred overnight at approximately 20° C., then washed three times with water and finally concentrated under reduced pressure. The crude product was purified by column chromatography (mobile phase: cyclohexane/ethyl acetate=10:1). Yield: 18.1 g (63%); m.p.: 242-246° C.

reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-fluoro-5-(methoxycarbonyloxy)phenyl isocyanate | 91.2 mmol, 22.4 g | ClC1=CC(=C(C=C1OC(=O)OC)N=C=O)F | C9H5ClFNO4
reactant | N,N′-dimethylthiourea | 91.2 mmol, 9.5 g | CNC(=S)NC | C3H8N2S
reactant | carbodiimidazole | 182.5 mmol, 29.6 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chloro-2-fluoro-5-hydroxyphenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione | ClC1=CC(=C(C=C1O)N1C(N(C(N(C1=O)C)=S)C)=O)F | C11H9ClFN3O3S
